US07241785B2
A mixture of ethyl (E)-3-(3-benzyloxy-1-phenyl-1H-pyrazol-5-yl)propenoate (7.33 g), 5% palladium-carbon (7.11 g) and tetrahydrofuran (50 ml) was stirred overnight under a hydrogen atmosphere at room temperature. Palladium-carbon was filtered off and the filtrate was concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-(3-hydroxy-1-phenyl-1H-pyrazol-5-yl)propionate (4.85 g, yield 89%) was obtained as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:2, volume ratio). The crystals were recrystallized from acetone-hexane. melting point: 150–151° C.

reactant | ethyl (E)-3-(3-benzyloxy-1-phenyl-1H-pyrazol-5-yl)propenoate | 7.33 g | C(C1=CC=CC=C1)OC1=NN(C(=C1)/C=C/C(=O)OCC)C1=CC=CC=C1 | C21H20N2O3
catalyst | palladium-carbon | 7.11 g | [C].[Pd]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | ethyl 3-(3-hydroxy-1-phenyl-1H-pyrazol-5-yl)propionate | 4.85 g, yield 89% | OC1=NN(C(=C1)CCC(=O)OCC)C1=CC=CC=C1 | C14H16N2O3
